datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:7])[H:6],65.3122
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:8],84.5586
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[H:14])[H:12])([H:9])([H:10])[H:11].[O:7][O:8][H:13],122.850608
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][O:7]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][O:6][O:7],178.90784
[C:1]([C:2](=[C:3]([C:4](=[C:5]([C:6]1=[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[C:14]1[H:16])[H:17])[H:18])[H:19])[H:20])([H:21])([H:22])[H:23]>>[C:1]([C:2]1([H:20])[C:3]([H:19])[C:4]([H:18])=[C:5]([H:17])[C:6]2=[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[C:14]12[H:16])([H:21])([H:22])[H:23],88.2824
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:23])[H:24])[H:22])=[C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([C:7](=[C:8]([H:23])[H:24])[H:22])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],63.3039
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13][C:14](=[S:15])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13](=[C:12]([H:16])[H:17])[C:14](=[S:15])[H:18],58.9944
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:15][O:14][C:13]([H:16])([H:17])[H:18],68.99416
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]([S:9][H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:10])[H:5].[S:8][S:9][H:11],20.5016
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30])([H:10])([H:11])[H:12],44.5596
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6]([H:8])[H:9])[H:7]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5](=[C:6]([H:8])[H:9])[H:7],-17.5728
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[H:11][O:35][O:36],213.09112
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33][H:34]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][O:32][O:33][H:34],58.19944
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([C:10]([C:11](=[C:12]([H:24])[H:25])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([C:7]([C:8]([C:9]([C:10]([C:11](=[C:12]([H:24])[H:25])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14],30.5432
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:25]([C:26]([H:29])([H:30])[H:31])([H:27])[H:28],29.288
